US09447090B2
A mixture of 2.64 g of (2-bromo-5-methylphenyl)methanol, 246 mg of bis(dibenzylideneacetone)palladium, 2.95 ml of tert-butylacrylate, 442 mg of tris(2-methylphenyl)phosphine, 2.5 ml of triethylamine, and 24 ml of DMF was stirred at 100° C. for 24 hours. After leaving to be cooled at room temperature, water and ethyl acetate were added thereto to carry out a layer separation operation. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2.32 g of tert-butyl (2E)-3-[2-(hydroxymethyl)-4-methylphenyl]acrylate.

reactant | (2-bromo-5-methylphenyl)methanol | 2.64 g | BrC1=C(C=C(C=C1)C)CO | C8H9BrO
reactant | tert-butylacrylate | 2.95 ml | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | tris(2-methylphenyl)phosphine | 442 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(dibenzylideneacetone)palladium | 246 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 24 ml | CN(C)C=O | C3H7NO
product | tert-butyl (2E)-3-[2-(hydroxymethyl)-4-methylphenyl]acrylate | 2.32 g | OCC1=C(C=CC(=C1)C)/C=C/C(=O)OC(C)(C)C | C15H20O3
